US07122666B2
17(ii)′ (8aS)-2,2-Dimethyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
In a similar manner to the procedures described in Preparative Examples 12(v)′, 12(vi)′ and 12(vii)′ above, reactions were conducted in turn, using (S)-1-benzyloxycarbonyl-4,4-dimethyl-2-hydroxymethylpyrrolidine [obtained as described in Preparative Example 17(i)′ above] instead of (2S,4S)-1-benzyloxycarbonyl-2-hydroxymethyl-4-methylthiopyrrolidine, to give the title compound as a brown oil (yield: 36%).

reactant | (S)-1-benzyloxycarbonyl-4,4-dimethyl-2-hydroxymethylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(C)C)CO | C15H21NO3
reactant | (2S,4S)-1-benzyloxycarbonyl-2-hydroxymethyl-4-methylthiopyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)SC)CO | C14H19NO3S
product | (8aS)-2,2-Dimethyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | yield: 36% | CC1(C[C@H]2CC(CCN2C1)=O)C | C10H17NO
